US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of 2-chloro-N4-(4-ethoxyphenyl)-5-fluoro-4-pyrimidineamine with 3-hydroxyaniline gave N4-(4-ethoxyphenyl)-N2-(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.79 (d, 1H, J=4.2 Hz), 7.54 (dd, 2H, J=2.4 and 7.2 Hz), 7.05–6.97 (m, 3H), 6.87 (dd, 2H, J=2.4 and 4.2 Hz), 6.41 (m, 1H), 4.02 (q, 2H, J=6.6 Hz), 1.38 (t, 3H, J=6.9 Hz); 19F NMR (CD3OD): −47444; LCMS: ret. time: 21.15 min.; purity: 98%; MS (m/e): 341 (MH+).

reactant | 2-chloro-N4-(4-ethoxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC=C(C=C1)OCC)F | C12H11ClFN3O
reactant | 3-hydroxyaniline | OC=1C=C(N)C=CC1 | C6H7NO
product | N4-(4-ethoxyphenyl)-N2-(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine | C(C)OC1=CC=C(C=C1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H17FN4O2
